US04997847
Benzenesulphonyl chloride (7 mmol) was added to a solution of 7-aminoheptanoic acid (7 mmol) in 10% sodium hydroxide solution (10 ml). The mixture was stirred at room temperature for 3 hours. The pH was adjusted to 1 with 2NHCl and the solution was extracted with chloroform (3×100 ml). The chloroform extracts were dried over magnesium sulphate, the solvent was removed and the residue was recrystallised from methanol-water to give 7-(benzenesulphonamido)heptanoic acid (0.75 g, 38%); m.p. 75°-77° C.

reactant | Benzenesulphonyl chloride | 7 mmol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 7-aminoheptanoic acid | 7 mmol | NCCCCCCC(=O)O | C7H15NO2
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 7-(benzenesulphonamido)heptanoic acid | 0.75 g, 38% | C1(=CC=CC=C1)S(=O)(=O)NCCCCCCC(=O)O | C13H19NO4S
